US08685959B2
Synthesis of ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 21)
To a stirred solution of the crude 1-((R)-1-(2,4-dichlorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-indazole (0.078 g, 0.20 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.086 g, 0.40 mmol) in dichloromethane (1 mL) was added HATU (0.15 g, 0.40 mmol) and Et3N (0.10 mL, 0.72 mmol). The reaction mixture was stirred at room temperature for 30 min, followed by the addition with dichloromethane. The mixture was washed with deionized water, and the aqueous layer was extracted with dichloromethane (2×15 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 30% ethyl acetate in hexanes) to afford the desired product (0.034 g, 0.058 mmol, 11% for 2 steps).

reactant | 1-((R)-1-(2,4-dichlorophenyl)ethyl)-6-((R)-3-methylpiperazin-1-yl)-1H-indazole | 0.20 mmol, 0.078 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1C[C@H](NCC1)C | C20H22Cl2N4
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.40 mmol, 0.086 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.40 mmol, 0.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ((R)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-2-methylpiperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.058 mmol, 0.034 g, 11% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1C[C@H](N(CC1)C(=O)[C@@H]1NCCC1)C | C25H29Cl2N5O
